US04886806
9.9 ml Diisopropylamine were reacted with 12 ml tetrahydrofuran under a nitrogen atmosphere, and 44.5 ml 1.6 n butyllithium/n-hexane were added at 0° C. to this mixture, and the mixture was cooled to -60° C. Then a further 50 ml of absolute tetrahydrofuran were added, and the solution was cooled to -78° C. A solution of 15 g 3',4',5'-trimethoxyflavone in 500 ml of absolute tetrahydrofuran cooled to about -60° C. was then quickly added to the lithium diisopropylamide solution. After three minutes 10 g of freshly crushed dry ice (CO2, -7820 C.) were added. Then the cooling was removed, and the mixture was allowed to warm to room temperature, excess gaseous carbon dioxide being stirred out of the solution. The reaction mixture was worked up by adjusting to pHl with half-concentrated hydrochloric acid and extracted with dichloromethane. The dichloromethane phase was shaken with an aqueous saturated sodium bicarbonate solution (about 100 ml). The aqueous phase was separated and carefully brought to pH1 with concentrated hydrochloric acid, whereby the resulting 3',4',5'-trimethoxyflavone-3-carboxylic acid precipitated out. The precipitated product was extracted from the reaction mixture with dichloromethane. The dichloromethane phase was separated, dried over sodium sulfate and concentrated, whereupon the product crystallized. 14.75 g of 3',4',5'-trimethoxyflavone-3-carboxylic acid were obtained.

reactant | Diisopropylamine | 9.9 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium n-hexane | C(CCC)[Li].CCCCCC
reactant | 3',4',5'-trimethoxyflavone | 15 g | COC=1C=C(C=2OC3=CC=CC=C3C(C2)=O)C=C(C1OC)OC | C18H16O5
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | dry ice | C(=O)=O | CO2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 3',4',5'-trimethoxyflavone-3-carboxylic acid | 14.75 g | COC=1C=C(C=2OC3=CC=CC=C3C(C2C(=O)O)=O)C=C(C1OC)OC | C19H16O7
